US08034812B2
Production of N-{5-[(2-{[(2-methoxycyclopropyl)carbonyl]amino}imidazo[1,2-b]pyridazin-6-yl)oxy]-2-methylphenyl}-1,3-dimethyl-1H-pyrazole-5-carboxamide
In the same manner as in Example 278 and using 2-methoxycyclopropanecarboxylic acid (86 mg, 0.74 mmol), N-{5-[(2-aminoimidazo[1,2-b]pyridazin-6-yl)oxy]-2-methylphenyl}-1,3-dimethyl-1H-pyrazole-5-carboxamide hydrochloride (200 mg, 0.49 mmol), O-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate (280 mg, 0.74 mmol), N,N-diisopropylethylamine (190 mg, 1.5 mmol) and N,N-dimethylformamide (7 mL) as starting materials, the title compound (83 mg, 35%) was obtained as a pale-yellow solid.

reactant | 2-methoxycyclopropanecarboxylic acid | 0.74 mmol, 86 mg | COC1C(C1)C(=O)O | C5H8O3
reactant | N-{5-[(2-aminoimidazo[1,2-b]pyridazin-6-yl)oxy]-2-methylphenyl}-1,3-dimethyl-1H-pyrazole-5-carboxamide hydrochloride | 0.49 mmol, 200 mg | Cl.NC=1N=C2N(N=C(C=C2)OC=2C=CC(=C(C2)NC(=O)C2=CC(=NN2C)C)C)C1
reactant | O-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate | 0.74 mmol, 280 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C
reactant | N,N-diisopropylethylamine | 1.5 mmol, 190 mg | C(C)(C)N(C(C)C)CC | C8H19N
solvent | N,N-dimethylformamide | 7 mL | CN(C=O)C | C3H7NO
product | N-{5-[(2-{[(2-methoxycyclopropyl)carbonyl]amino}imidazo[1,2-b]pyridazin-6-yl)oxy]-2-methylphenyl}-1,3-dimethyl-1H-pyrazole-5-carboxamide | 83 mg, 35% | COC1C(C1)C(=O)NC=1N=C2N(N=C(C=C2)OC=2C=CC(=C(C2)NC(=O)C2=CC(=NN2C)C)C)C1 | C24H25N7O4
